US07285558B2
2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-3-[1-methyl-4-(piperazin-1-ylcarbonyl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was synthesized by the reaction of 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid and piperazine using diethyl cyanophosphonate as a coupling reagent Mass: 577.17 (M+H).

reactant | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC(C)C | C25H25ClN6O4
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-3-[1-methyl-4-(piperazin-1-ylcarbonyl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(C1)C(=O)N1CCNCC1)C)=O)C)=O)CC(C)C | C29H33ClN8O3
